US04252987
To a 30 ml glass bottle, under an argon atmosphere, were added 7.2 milligrams (0.029 millimol) of di(cyclopentadienyl)titanium dichloride, 8 mg (0.072 millimol) of 1,4-diazabicyclo(2.2.2)octane, 5 ml (40.0 millimol) of 4-methyl-1-pentene, 7 ml of chlorobenzene, and 0.045 ml (0.44 millimol) of ethylaluminum dichloride. After a two hour reaction at 25° C., there had been formed 1.08 millimol of 2-isobutyl-6-methyl-1-heptene.

reactant | 4-methyl-1-pentene | 40.0 millimol, 5 ml | CC(CC=C)C | C6H12
reactant | ethylaluminum dichloride | 0.44 millimol, 0.045 ml | [Cl-].[Cl-].C(C)[Al+2]
reactant | chlorobenzene | 7 ml | ClC1=CC=CC=C1 | C6H5Cl
catalyst | di(cyclopentadienyl)titanium dichloride | 0.029 millimol, 7.2 milligrams | [Cl-].[Cl-].C1(C=CC=C1)[Ti+2]C1C=CC=C1
catalyst | 1,4-diazabicyclo(2.2.2)octane | 0.072 millimol, 8 mg | N12CCN(CC1)CC2 | C6H12N2
product | 2-isobutyl-6-methyl-1-heptene | 1.08 millimol | C(C(C)C)C(=C)CCCC(C)C | C12H24
